US07534894B2
A mixture of N-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-1-methyl-1H-indole-3-carboxamide (1.5 g, 2.85 mmol), prepared in the previous step, bromoacetonitrile (240 μL, 3.44 mmol) and potassium carbonate (1.95 g, 14.1 mmol) in 75 mL of DMF was stirred under nitrogen at room temperature for 23 h. The reaction was partitioned between methylene chloride and water. The organic layer was separated, extracted multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give N-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-1-methyl-1H-indole-3-carboxamide (1.2 g, 75%) as a white solid, MS (ESI) m/z 564 [M+H]+. Elemental Analysis for C32H26BrN3O2: Calc'd: C, 68.09; H, 4.64; N, 7.44; Found: C, 66.78; H, 4.68; N, 7.19.

reactant | N-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-1-methyl-1H-indole-3-carboxamide | 2.85 mmol, 1.5 g | C(C1=CC=CC=C1)N(C(=O)C1=CN(C2=CC=CC=C12)C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)O)Br | C30H25BrN2O2
reactant | bromoacetonitrile | 3.44 mmol, 240 μL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 14.1 mmol, 1.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | N-benzyl-N-{[3′-bromo-4′-(cyanomethoxy)-1,1′-biphenyl-4-yl]methyl}-1-methyl-1H-indole-3-carboxamide | 1.2 g, 75% | C(C1=CC=CC=C1)N(C(=O)C1=CN(C2=CC=CC=C12)C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)OCC#N)Br | C32H26BrN3O2
